US06258833B1
Preparation of 3-(Indan-2-yloxy)-4-methoxybenzaldehyde
A solution of 3-hydroxy-4-methoxy-benzaldehyde (15.2 g, 100 mmol, 1 eq), 2-indanol (12.1 g, 90 mmol, 0.9 eq), and triphenylphosphine (26.2 g, 100 mmol, 1 eq) in dry THF (300 mL) was treated dropwise with diisopropylazodicarboxylate (19.6 mL, 100 mmol, 1 eq). The reaction mixture was stirred at reflux for 16 hours, then cooled and diluted with diethyl ether (500 mL). The solution was washed with water (2×150 mL), 1 M NAOH (4×125 mL), and saturated NaCl (sodium chloride) (2×100 mL), dried with CH2Cl2, then concentrated to provide a syrup, which solidified upon standing. The solid was suspended in diethyl ether (350 mL) and stirred overnight to break up all chunks. The solid was collected by vacuum filtration and recrystallized from ethanol/water (21.4 g). The ethereal filtrate was concentrated and purified by flash chromatography (silica gel, 7.5×36 cm Biotage KP-Sil column, eluted with 25% ethyl acetate in heptane) to yield an additional 5 g of product. 1H NMR (300 MHz, CDCl3) δ9.86 (s, 1H), 7.49-7.44 (m, 2H), 7.25-7.16 (m, 4H), 6.97 (d, J=8.7 Hz, 1H), 5.29-5.22 (m, 1H), 3.89 (s, 1H), 3.45 (dd, J=16.7, 6.6 Hz, 2H), 3.24 (dd, J=16.7, 3.6 Hz, 2H). 13C NMR (75 MHz, CDCl3) 190.9, 155.5, 147.9, 140.4, 130.0, 126.9, 126.8, 124.7, 112.1, 111.0, 78.9, 56.1, 39.7.

reactant | 3-hydroxy-4-methoxy-benzaldehyde | 100 mmol, 15.2 g, 1 eq | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | 2-indanol | 90 mmol, 12.1 g, 0.9 eq | C1C(CC2=CC=CC=C12)O | C9H10O
reactant | triphenylphosphine | 100 mmol, 26.2 g, 1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 100 mmol, 19.6 mL, 1 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 350 mL | C(C)OCC | C4H10O
product | 3-(Indan-2-yloxy)-4-methoxybenzaldehyde | 5 g | C1C(CC2=CC=CC=C12)OC=1C=C(C=O)C=CC1OC | C17H16O3
